US05082950
A mixture of 2-benzoylpyrrole (855 mg, 5 mmol), diethyl malonate (800 mg, 5 mmol), manganese(III) acetate dihydrate (4560 mg, 15 mmol) and sodium acetate (820 mg, 10 mmol) in acetic acid (30 mL) was stirred at 70° C. under a nitrogen atmosphere. The reaction mixture was diluted with diethyl ether and filtered. The filtrate was washed with 10% aqueous sodium hydroxide and saturated aqueous sodium chloride, dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by column chromatography on silica eluting with hexane/ethyl acetate (70:30) to provide 1.00 g (57%) of diethyl (5-benzoylpyrrol-2-yl)acetoxy-methanedicarboxylate.

reactant | 2-benzoylpyrrole | 5 mmol, 855 mg | C(C1=CC=CC=C1)(=O)C=1NC=CC1 | C11H9NO
reactant | diethyl malonate | 5 mmol, 800 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium acetate | 10 mmol, 820 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | manganese(III) acetate dihydrate | 15 mmol, 4560 mg | O.O.C(C)(=O)[O-].[Mn+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | diethyl (5-benzoylpyrrol-2-yl)acetoxy-methanedicarboxylate | 1.00 g, 57% | C(C1=CC=CC=C1)(=O)C1=CC=C(N1)CC(=O)OC(C(=O)OCC)C(=O)OCC | C20H21NO7
